Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins / atorvastatin
 
Attending: ___
 
Chief Complaint:
Chest pain, DOE
 
Major Surgical or Invasive Procedure:
Major Surgical or Invasive procedures: ___ Coronary artery 
bypass grafting x1 with the left internal mammary artery to the 
left anterior descending artery

 
History of Present Illness:
Mr. ___ is a ___ with CAD s/p PCIx3 and recent CABG x1
(LIMA->LAD) on ___, who presents with recurrent chest pain 
and
shortness of breath. His post-operative course was uncomplicated
and he was discharge home on ___ with ___ services. He had
been doing well at home until yesterday when he had one episode
of mild chest pain lasting a few minutes. He was asymptomatic
until this evening when he again started to have recurrent chest
pain and shortness of breath, relieved with SL nitroglycerin. He
noted radiation of pain to the left arm and jaw. Given
these symptoms, his wife brought him to the hospital for further
evaluation. Of note, he has been hesitant in taking his pain
medications given concerns for addiction. On arrival to the ED,
he had no chest pain complaints. EKG was obtained which showed
inverted t waves in I, avL, v2-v6. Given these findings, cardiac
surgery was consulted for further evaluation. 
 
 
Past Medical History:
Coronary artery disease
CABG x1
Hyperlipidemia  
Tobacco use
Umbilical hernia repair w/ mesh
4 prior stents: ___: ramus BMS, ___: ramus Mid Left Cx and 
mid RCA s/p stenting all patent
 
Social History:
___
Family History:
Maternal grandfather with first MI age ___ 
Father first MI age ___
Several uncles developed CAD in ___
 
Physical Exam:
Physical Exam
Vitals: 97.9  55  120/59  14  97%RA
Height: n/a    Weight: n/a

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI []
Neck:  Supple [x] Full ROM []
Chest: Lungs clear bilaterally [x], midline sternotomy and chest
tube incisions well healing, no surrounding erythema, no 
drainage
Heart: RRR [x]  Irregular []  Murmur [] grade ______
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+
[]
Extremities: Warm [x], well-perfused []  Edema [] _____
Varicosities: None []
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: p  Left: p
DP           Right: p  Left: p
___           Right: p  Left: p
Radial       Right: p  Left: p
 
Pertinent Results:
___ 06:10AM BLOOD WBC-12.8* RBC-3.66* Hgb-10.6* Hct-33.4* 
MCV-91 MCH-29.0 MCHC-31.7* RDW-13.4 RDWSD-45.0 Plt ___
___ 09:06PM BLOOD WBC-10.2* RBC-3.85* Hgb-11.1* Hct-35.4* 
MCV-92 MCH-28.8 MCHC-31.4* RDW-13.3 RDWSD-44.8 Plt ___
___ 06:10AM BLOOD Plt ___
___ 06:10AM BLOOD Glucose-106* UreaN-19 Creat-1.0 Na-137 
K-4.7 Cl-100 HCO3-26 AnGap-16
___ 09:06PM BLOOD Glucose-168* UreaN-17 Creat-1.1 Na-138 
K-5.2* Cl-102 HCO3-24 AnGap-17
___ 06:10AM BLOOD CK-MB-2 cTropnT-<0.01
___ 09:06PM BLOOD cTropnT-<0.01

ECHO ___
The left atrium is normal in size. The left atrial volume index 
is normal. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF = 65%). 
Tissue Doppler imaging suggests an increased left ventricular 
filling pressure (PCWP>18mmHg). Right ventricular chamber size 
and free wall motion are normal. There is abnormal septal motion 
(bounce and shudder) suggestive of pericardial constriction. 
Presystolic ejection across the pulmonic valve is present 
(suggestive of constriction). The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
The left ventricular inflow pattern suggests a restrictive 
filling abnormality, with elevated left atrial pressure. The 
pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. 

 Compared with the prior study (images reviewed) of ___, 
findings are now suggestive of early pericardial constriction.  

Nuclear ETT ___:  
FINDINGS:  Left ventricular cavity size is normal. 
Rest and stress perfusion images reveal a fixed perfusion defect 
in the basilar portion of the inferior, likely representing 
attenuation.  Otherwise, uniform tracer uptake throughout the 
left ventricular myocardium. 
  
Gated images reveal normal wall motion including the basilar 
portion of the interior wall. 
The calculated left ventricular ejection fraction is 58%. 
  
IMPRESSION:  1.  Normal cardiac perfusion study.  2.  Normal 
left ventricular cavity size and ejection fraction. 

 
Brief Hospital Course:
___ with CAD s/p PCIx3 and recent CABG x1 (LIMA->LAD) on ___, 
who presents with recurrent chest pain and shortness of breath. 
On arrival to the ED, patient's symptoms had completely 
resolved. EKG was obtained which showed new inverted T-waves, 
initial troponin level <0.01 and repeat <0.01. He underwent an 
ECHO on ___ that demonstrates constrictive physiology. 
Cardiology has been consulted and a stress test has been ordered 
per their recommendation.
His stress test was negative for ischemia and Dr. ___ spoke to 
the pt's cardiologist, Dr. ___ felt the patient could 
go home on ___ and see him in the office in follow up.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Fexofenadine 60 mg PO BID 
4. Rosuvastatin Calcium 40 mg PO QPM 
5. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain - Severe 
6. Metoprolol Tartrate 50 mg PO TID 
7. Lidocaine 5% Patch 1 PTCH TD QPM 
8. Ranitidine 150 mg PO BID 
9. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  Isosorbide Mononitrate (Extended Release) 15 mg PO DAILY 
RX *isosorbide mononitrate 30 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
3.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
RX *nitroglycerin 0.4 mg 1 tablet(s) sublingually every 5 mins 
until x3 until CP resolves.  If CP continues call ___. Disp #*50 
Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Clopidogrel 75 mg PO DAILY  
6.  Docusate Sodium 100 mg PO BID  
7.  Fexofenadine 60 mg PO BID  
8.  Metoprolol Tartrate 50 mg PO TID  
9.  Ranitidine 150 mg PO BID  
10.  Rosuvastatin Calcium 40 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
 Coronary artery disease s/p Coronary artery bypass graft x 1
Past medical history:
Hyperlipidemia 
Tobacco use
Umbilical hernia repair w/ mesh
4 prior stents: ___: ramus BMS, ___: ramus Mid Left Cx and 
mid RCA s/p stenting all patent

 
Discharge Condition:
Alert and oriented x3 non-focal 
Ambulating with steady gait
incisions: Sternal incision clean and dry
Edema: none

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 

 

 

 

 
Followup Instructions:
___